Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][H:7],7.21849029008
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])=[C:7]([H:8])[O:9][C:10][H:11],1.61872858967
[H:4].[O:1]=[C:2]([C:3]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.0757464404900015
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-5.41828992809
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-0.985102529837
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.00835715976
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10],0.521714911471
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]=[O:7].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8],-2.8671781818700004
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.75927522653
[H:1].[O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.69741957306
[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[C:8]1([H:9])[H:10]>>[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])[H:10],0.0641859920206
[H:1][C:2](=[C:3]=[O:4])[C:9][O:8][C:5]([H:6])[H:7]>>[H:1][C:2]1[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]1,0.298555308
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6],3.50242709271
[C:4][H:5].[O:1][O:2][C:3][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-5.47987626559
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.15363466184
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.10116389059
[H:1][O:2]/[C:3]([H:4])=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.63760229768
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:7][O:8][C:9]([H:10])[H:11].[H:6],3.4692932511400003
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]1[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.43870814228
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4][O:5][H:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],0.6696577059100001
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-6.477000493589999
[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[C:4](=[O:5])([H:6])[H:7]>>[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.4653087091399999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],6.154217893049999
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-4.02393530743
[C:4]([H:5])[O:6][H:7].[O:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.99880183259
[H:1][O:2][C@:3]([H:4])([C:5]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.95478648521
[H:1][O:2][C:3]([H:4])=[C:5]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.03941098745
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7],1.4345141740799998
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],4.02300678556
